US05650410
A mixture of propyl 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (1.5 g), piperidine (1.27 g) and dichloromethane (30 ml) was stirred at room temperature for 2 days. The reaction mixture was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (10:1, v/v) gave propyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-piperidinomethylquinoline-3-carboxylate (0.8 g, 53%). This compound was recrystallized from ethyl acetate - hexane. Colorless prisms, mp. 129°-131° C.

reactant | propyl 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 1.5 g | BrCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C24H26BrNO6
reactant | piperidine | 1.27 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | propyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-piperidinomethylquinoline-3-carboxylate | 0.8 g, 53% | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN1CCCCC1)C(=O)OCCC | C29H36N2O6
